US06384065B1
To 540 ml of dimethyl sulfoxide were added 21.9 g of lithium chloride, 13.9 ml of pyridine and 9.3 ml of water, and the resulting mixture was gently heated under reflux. While refluxing the mixture, 100 ml of a solution of 54.0 g of 2,4,4-tricarbethoxy-cyclohexanone in dimethyl sulfoxide was dropwise added thereto over one hour. After a reaction at the same temperature as above for 2 hours, the mixture was cooled and poured into a mixture of ice water and ethyl acetate, and the organic layer was separated. The organic layer was washed with saturated aqueous solution of sodium chloride and dried over anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure. Purification of the residue by distillation under reduced pressure gave 13.5 g of 4-carbethoxycyclohexanone as a light yellow oily product.

reactant | lithium chloride | 21.9 g | [Cl-].[Li+]
reactant | pyridine | 13.9 ml | N1=CC=CC=C1 | C5H5N
reactant | water | 9.3 ml | O | H2O
reactant | 2,4,4-tricarbethoxy-cyclohexanone | 54.0 g | C(=O)(OCC)C1C(CCC(C1)(C(=O)OCC)C(=O)OCC)=O | C15H22O7
solvent | dimethyl sulfoxide | CS(=O)C | C2H6OS
solvent | dimethyl sulfoxide | 540 ml | CS(=O)C | C2H6OS
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-carbethoxycyclohexanone | 13.5 g | C(=O)(OCC)C1CCC(CC1)=O | C9H14O3
